US05665777
To a solution in methanol (7.5 mL) of 5-(3-phenylphenoxy)pentanoic acid methyl ester (1.42 g, 5.0 mmol), prepared as in step 1, was added water (3.75 mL) and aqueous 4N sodium hydroxide (3.75 mL). The reaction mixture was stirred for 3.5 hours and then was concentrated in vacuo. The residue was partitioned between water and ethyl ether. The aqueous phase was taken to pH 2 with concentrated HCl and extracted twice with ethyl acetate. The combined ethyl acetate extracts were dried over Na2SO4, filtered, and concentrated in vacuo to give a white solid. Trituration of the solid with 1:1 ethyl ether-hexanes gave 5-(3-phenylphenoxy)pentanoic acid (1.21 g) as a white powder.

reactant | 5-(3-phenylphenoxy)pentanoic acid methyl ester | 5.0 mmol, 1.42 g | COC(CCCCOC1=CC(=CC=C1)C1=CC=CC=C1)=O | C18H20O3
reactant | water | 3.75 mL | O | H2O
reactant | sodium hydroxide | 4N, 3.75 mL | [OH-].[Na+]
solvent | methanol | 7.5 mL | CO | CH4O
product | 5-(3-phenylphenoxy)pentanoic acid | 1.21 g | C1(=CC=CC=C1)C=1C=C(OCCCCC(=O)O)C=CC1 | C17H18O3
